US04319913
To a solution of 1-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (1.0 g, 0.003 mol) in 25 ml. of methylene chloride was added dropwise a solution of bromine (0.8 g, 0.1 mol) in 25 ml. of methylene chloride with constant stirring. The reaction mixture was stirred for one hour and washed with water, then sodium bisulfite, again with water, dried over magnesium sulfate and concentrated in vacuo to yield a yellow solid. The yellow solid was slurried in anhydrous diethyl ether to yield 1-(4-fluorophenyl)-2-(4-bromophenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.7 g, 56.4% yield) as a white solid having a melting point of 201°-205° C. and the following analysis:

reactant | 1-(4-fluorophenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.003 mol, 1.0 g | FC1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C19H15FNOP
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | bromine | 0.1 mol, 0.8 g | BrBr | Br2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-fluorophenyl)-2-(4-bromophenyl)-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.7 g, 56.4% yield | FC1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=C(C=C2)Br)=O | C19H14BrFNOP
